US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 1.40 g (5.38 mmol) of ethyl 4-acetamido-1-methyl-2-indole-carboxylate, 5.14 g (53.8 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 2.91 g (53.8 mmol) of sodium methoxide. Thus 1.15 g (69.0%) of 4-acetamido-1-methyl-2-indoloylguanidine hydrochloride was obtained.

reactant | ethyl 4-acetamido-1-methyl-2-indole-carboxylate | 5.38 mmol, 1.40 g | C(C)(=O)NC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C14H16N2O3
reactant | guanidine hydrochloride | 53.8 mmol, 5.14 g | Cl.NC(=N)N
reactant | sodium methoxide | 53.8 mmol, 2.91 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 4-acetamido-1-methyl-2-indoloylguanidine hydrochloride | 1.15 g, 69.0% | Cl.C(C)(=O)NC1=C2C=C(NC2=CC=C1)C(=O)N=C(NC)N | InChI=1S/C13H15N5O2.ClH/c1-7(19)16-9-4-3-5-10-8(9)6-11(17-10)12(20)18-13(14)15-2;/h3-6,17H,1-2H3,(H,16,19)(H3,14,15,18,20);1H
